US07576115B2
Synthesis of methyl 5-[(2-{1-[5-(3,4-dichlorophenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]-2-thiophenecarboxylate
From 2-(3,4-dichlorophenyl)-3-hydroxy-4-methylcarbonylthiophene (57.4 mg, 0.2 mmol), methyl 5-hydrazinocarbonyl-2-thiophenecarboxylate (40.0 mg, 0.2 mmol) and tosylic acid monohydrate (11.4 mg, 0.06 mmol), 81.2 mg of the desired product was obtained in the same manner as in Synthetic Example 65 as a pale yellow solid (yield 87%).

reactant | 2-(3,4-dichlorophenyl)-3-hydroxy-4-methylcarbonylthiophene | 0.2 mmol, 57.4 mg | ClC=1C=C(C=CC1Cl)C=1SC=C(C1O)C(=O)C | C12H8Cl2O2S
reactant | methyl 5-hydrazinocarbonyl-2-thiophenecarboxylate | 0.2 mmol, 40.0 mg | N(N)C(=O)C1=CC=C(S1)C(=O)OC | C7H8N2O3S
reactant | tosylic acid monohydrate | 0.06 mmol, 11.4 mg | O.S(=O)(=O)(O)C1=CC=C(C)C=C1
product | methyl 5-[(2-{1-[5-(3,4-dichlorophenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]-2-thiophenecarboxylate | 81.2 mg | ClC=1C=C(C=CC1Cl)C1=C(C(=CS1)C(C)=NNC(=O)C1=CC=C(S1)C(=O)OC)O | C19H14Cl2N2O4S2
